### PR TITLE
[Merged by Bors] - feat(Topology/UniformSpace): define nonarchimedean uniformity

### PR DESCRIPTION
**Pull request by pechersky**
prove basic result that such a space is topologically zero dimensional

leave todos for future directions

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by pechersky** [comment]
bot fix style

File: docs/references.bib [hunk 1]
```diff
@@ -3946,6 +3955,16 @@ @Article{         Wiles-FLT
   url           = {https://doi.org/10.2307/2118559}
 }
 
+@Article{         windisch2021,
+  title         = {Equivalent characterizations of non-Archimedean uniform spaces},
```
[the remark this answers is not in the document]
Comment (pechersky) [reply docs/references.bib:3959]: bot fix style

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 2]
```diff
@@ -0,0 +1,129 @@
...
+  ∀ ⦃x y z⦄, (x, y) ∈ V → (y, z) ∈ V → (x, z) ∈ V
+
+lemma TransitiveRel.comp_eq_of_idRel_subset {s : Set (X × X)}
+    (h : TransitiveRel s) (h' : idRel ⊆ s) :
+    s ○ s = s := by
+  refine le_antisymm ?_ (subset_comp_self h')
+  intro ⟨x, y⟩
+  simp only [mem_compRel, forall_exists_index, and_imp]
+  intro z
+  exact @h x z y
```
Comment (jcommelin) [inline Mathlib/Topology/UniformSpace/Ultra.lean:64]: Should this stay here? Or move to some basic file on sets?
Also, should the name be `IsTransitiveRel`?

Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean:64]: I followed the style in `UniformSpace/Defs.lean` which has the following explanation and defs
```
There is already a theory of relations in `Data/Rel.lean` where the main definition is
`def Rel (α β : Type*) := α → β → Prop`.
The relations used in the current file involve only one type, but this is not the reason why
we don't reuse `Data/Rel.lean`. We use `Set (α × α)`
instead of `Rel α α` because we really need sets to use the filter library, and elements
of filters on `α × α` have type `Set (α × α)`.
[...]
/-- The relation is invariant under swapping factors. -/
def SymmetricRel (V : Set (α × α)) : Prop :=
  Prod.swap ⁻¹' V = V
```

Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean:64]: How about #22594?

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 3]
```diff
@@ -0,0 +1,129 @@
...
+
+variable [UniformSpace X]
+
+variable (X) in
+/-- A uniform space is ultrametric if the uniformity `𝓤 X` has a basis of equivalence relations. -/
+class IsUltraUniformity : Prop where
+  has_basis : (𝓤 X).HasBasis
+    (fun s : Set (X × X) => s ∈ 𝓤 X ∧ IsSymmetricRel s ∧ IsTransitiveRel s) id
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:72]: Could you provide a constructor taking any basis made of equivalence relations?

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 4]
```diff
@@ -0,0 +1,129 @@
...
+
+variable [IsUltraUniformity X]
+
+namespace UniformSpace
+
+lemma nhds_basis_clopens (x : X) :
+    (𝓝 x).HasBasis (fun s : Set X => x ∈ s ∧ IsClopen s) id := by
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:79]: Could you break this down into:
- balls for transitive relations are open
- balls for equivalence relations are disjoint (or equal)
- balls for equivalence relations are clopen
- and then this result follows almost immediately using [nhds_basis_uniformity'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/Defs.html#nhds_basis_uniformity') (more precisely this gives you *a* basis of clopen sets, and then [Filter.HasBasis.to_hasBasis'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Bases/Basic.html#Filter.HasBasis.to_hasBasis') finishes the job)

**Review by ADedecker — APPROVED** [review]
Thanks a lot!

File: Mathlib/Topology/UniformSpace/Ultra.lean (hunk 3 above)
Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean:72]: What kind of basis should we take? IsBasis, FilterBasis, IsTopologicalBasis, or something else? That this basis is used via UniformSpace.Core, or some other connection to the ambient uniform structure?

Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean:72]: Or just a rephrase that uses HasBasis with the additional reflexivity condition on sets?

Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ultra.lean:72]: What I meant is, instead of considering the family of *all* entourages which are transitive and symmetric, assume that there is *some* basis for the uniformity filter (formulated using `HasBasis`) whose elements are transitive and symmetric.

Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ultra.lean:72]: Let me just write down the statement I had in mind that will be clearer.

Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ultra.lean:72]: Here it is:

```lean
lemma IsUltraUniformity.mk_of_hasBasis {ι : Type*} {p : ι → Prop} {s : ι → Set (X × X)}
    (h_basis : (𝓤 X).HasBasis p s) (h_symm : ∀ i, p i → IsSymmetricRel (s i))
    (h_trans : ∀ i, p i → IsTransitiveRel (s i)) :
    IsUltraUniformity X where
  has_basis := h_basis.to_hasBasis'
    (fun i hi ↦ ⟨s i, ⟨h_basis.mem_of_mem hi, h_symm i hi, h_trans i hi⟩, subset_rfl⟩)
    (fun _ hs ↦ hs.1)
```

The goal is simply that, if you happen to have your favorite basis for the uniformity (e.g nice subrings) which satisfy the conditions, it spares you from studying *all* the entourages satisfying the condition.

File: Mathlib/Topology/UniformSpace/Ultra.lean (hunk 4 above)
Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean:156]: I did most of this in [323d893](https://github.com/leanprover-community/mathlib4/pull/22580/commits/323d89349cc98d22945baaddf50acd78bb6eb606)

I didn't do the `Disjoint` lemma because really that should go through `[disjoint_or_subset_of_isClopen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Connected/Clopen.html#disjoint_or_subset_of_isClopen)` iiuc.

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 5]
```diff
@@ -0,0 +1,129 @@
...
+
+variable {X : Type*}
+
+/-- The relation is transitive. -/
+def IsTransitiveRel (V : Set (X × X)) : Prop :=
+  ∀ ⦃x y z⦄, (x, y) ∈ V → (y, z) ∈ V → (x, z) ∈ V
+
+lemma IsTransitiveRel.comp_eq_of_idRel_subset {s : Set (X × X)}
+    (h : IsTransitiveRel s) (h' : idRel ⊆ s) :
+    s ○ s = s := by
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ultra.lean]: Did you mean to resolve this? I don't see it in your code, but maybe I wasn't clear on what I meant.

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 6]
```diff
@@ -0,0 +1,176 @@
...
+def IsTransitiveRel (V : Set (X × X)) : Prop :=
+  ∀ ⦃x y z⦄, (x, y) ∈ V → (y, z) ∈ V → (x, z) ∈ V
+
+lemma IsTransitiveRel.comp_subset_self {s : Set (X × X)}
+    (h : IsTransitiveRel s) :
+    s ○ s ⊆ s := by
+  intro ⟨x, y⟩
+  simp only [mem_compRel, forall_exists_index, and_imp]
+  intro z
+  exact @h x z y
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:64]:
```suggestion
    s ○ s ⊆ s :=
  fun ⟨_, _⟩ ⟨_, hxz, hzy⟩ ↦ h hxz hzy
```

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+
+lemma isTransitiveRel_empty : IsTransitiveRel (X := X) ∅ := by
+  intro
+  simp
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:68]:
```suggestion
  simp [IsTransitiveRel]
```

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 8]
```diff
@@ -0,0 +1,176 @@
...
+
+lemma isTransitiveRel_univ : IsTransitiveRel (X := X) Set.univ := by
+  intro
+  simp
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:72]:
```suggestion
  simp [IsTransitiveRel]
```

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 9]
```diff
@@ -0,0 +1,176 @@
...
+
+lemma isTransitiveRel_singleton (x y : X) : IsTransitiveRel {(x, y)} := by
+  intro
+  simp +contextual
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:76]:
```suggestion
  simp +contextual [IsTransitiveRel]
```

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 10]
```diff
@@ -0,0 +1,176 @@
...
+
+lemma IsTransitiveRel.symmetrizeRel {s : Set (X × X)}
+    (h : IsTransitiveRel s) :
+    IsTransitiveRel (symmetrizeRel s) := by
+  intro x y z
+  simp only [_root_.symmetrizeRel, mem_inter_iff, mem_preimage, Prod.swap_prod_mk, and_imp]
+  intro hxy hyx hyz hzy
+  exact ⟨h hxy hyz, h hzy hyx⟩
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:84]:
```suggestion
    IsTransitiveRel (symmetrizeRel s) :=
  fun _ _ _ hxy hyz ↦ ⟨h hxy.1 hyz.1, h hyz.2 hxy.2⟩
```

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 11]
```diff
@@ -0,0 +1,176 @@
...
+  intro z hz
+  rw [hasBasis_symmetric.mem_iff]
+  refine ⟨V, ⟨h', h_symm⟩, ?_⟩
+  rintro ⟨a, b⟩
+  simp only [id_eq, mem_setOf_eq]
+  rintro hab rfl
+  replace hab : b ∈ ball a V := hab
+  contrapose! hz
+  rwa [ball_eq_of_mem_of_isSymmetricRel_of_isTransitiveRel ‹_› ‹_› hz,
+    mem_ball_symmetry h_symm]
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:144]:
```suggestion
  rw [← isOpen_compl_iff, isOpen_iff_ball_subset]
  exact fun y hy ↦ ⟨V, h', fun z hyz hxz ↦ hy <| h_trans hxz <| h_symm.mk_mem_comm.mp hyz⟩
```

File: Mathlib/Topology/UniformSpace/Ultra.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/UniformSpace/Ultra.lean:156]: No I didn't mean [disjoint_or_subset_of_isClopen](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Connected/Clopen.html#disjoint_or_subset_of_isClopen), because this has a connectedness hypothesis. But after playing a bit with the proof (see above suggestion) I realize that the disjointness lemma would essentially be unnecessary boilerplate.

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 12]
```diff
@@ -0,0 +1,176 @@
...
+    ball x V = ball y V := by
+  refine le_antisymm (h_trans.ball_subset_of_mem ?_) (h_trans.ball_subset_of_mem hy)
+  rwa [← mem_ball_symmetry h_symm]
+
+variable [UniformSpace X]
+
+variable (X) in
+/-- A uniform space is ultrametric if the uniformity `𝓤 X` has a basis of equivalence relations. -/
+class IsUltraUniformity : Prop where
+  has_basis : (𝓤 X).HasBasis
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:109]:
```suggestion
  hasBasis : (𝓤 X).HasBasis
```

File: Mathlib/Topology/UniformSpace/Ultra.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/Topology/UniformSpace/Ultra.lean]: Sorry, missed the `iff` portion of your request. I've added it now.

File: Mathlib/Topology/UniformSpace/Ultra.lean [hunk 13]
```diff
@@ -0,0 +1,161 @@
...
+
+/-- A uniform space with a nonarchimedean uniformity is zero-dimensional. -/
+lemma _root_.TopologicalSpace.isTopologicalBasis_clopens :
+    TopologicalSpace.IsTopologicalBasis {s : Set X | IsClopen s} := by
+  apply TopologicalSpace.isTopologicalBasis_of_isOpen_of_nhds fun U (hU : IsClopen U) => hU.2
+  intro x U hxU U_op
+  have : U ∈ 𝓝 x := IsOpen.mem_nhds U_op hxU
+  rcases (nhds_basis_clopens x).mem_iff.mp this with ⟨V, ⟨hxV, hV⟩, hVU : V ⊆ U⟩
+  use V
+  tauto
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/Ultra.lean:159]:
```suggestion
    TopologicalSpace.IsTopologicalBasis {s : Set X | IsClopen s} :=
  .of_hasBasis_nhds fun x ↦ by simpa [and_comm] using nhds_basis_clopens x
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+
